US04406686
Six g of 3-(dichloroacetylamino)-2-propanone (0.03 mole), 2.0 g (0.03 mole) of ethylene glycol, 0.2 g of β-naphthalene sulfonic acid, and 100 ml of dichloroethane were combined in a reaction flask and refluxed until water stopped coming off. Then the reaction was stirred with potassium carbonate and filtered over Florisil. The filtrate was evaporated to yield 2.0 g of 2-methyl-2-(chloroacetylamino)methyl-1,3-dioxolane, a white solid. m.p.=128°-130° C. Structue was confirmed by NMR.

reactant | 3-(dichloroacetylamino)-2-propanone | 0.03 mole | ClC(C(=O)NCC(C)=O)Cl | C5H7Cl2NO2
reactant | ethylene glycol | 0.03 mole, 2.0 g | C(CO)O | C2H6O2
reactant | dichloroethane | 100 ml | ClC(C)Cl | C2H4Cl2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | β-naphthalene sulfonic acid | 0.2 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)O | C10H8O3S
solvent | water | O | H2O
product | 2-methyl-2-(chloroacetylamino)methyl-1,3-dioxolane | 2.0 g | CC1(OCCO1)CNC(CCl)=O | C7H12ClNO3
